US06057357
(S)-1-(3-Benzyloxy-phenyl)-ethane-1,2-diol
At 0° C. were combined t-butyl alcohol (150 mL), water (150 mL), and AD-mix-α (42 g). Example 1 (6.4 g, 30 mmol) was added and stirred for 3.5 hours. The reaction was refrigerated overnight (15.5 hours), stirred for 8 hours, refrigerated for another 16 hours, and stirred for a further 1 hour. Sodium sulphite (45 g, 36 mmol) was added and the reaction stirred for 2 hours at room temperature. The mixture was poured into ethyl acetate (300 mL) and the aqueous extracted with ethyl acetate (3×150 mL). The organics were dried (MgSO4) and the solvent removed in vacuo. Purification by column chromatography (ethyl acetate:heptane 9:1) gave the product as a yellow oil, 30 mmol, 100%.

reactant | t-butyl alcohol | 150 mL | C(C)(C)(C)O | C4H10O
reactant | water | 150 mL | O | H2O
reactant | AD-mix-α | 42 g | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | Sodium sulphite | 36 mmol, 45 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | (S)-1-(3-Benzyloxy-phenyl)-ethane-1,2-diol | C(C1=CC=CC=C1)OC=1C=C(C=CC1)[C@@H](CO)O | C15H16O3
